### PR TITLE
IRContext.default and IRContext.create proofs for parser

### PR DESCRIPTION
**Pull request by GZGavinZhao**
Depends on #383.

Required by #222.

### CODE REVIEW

**Comment by GZGavinZhao** [comment]
@ineol @math-fehr would appreciate some help on definition visibility and file organization.

File: Veir/Rewriter/GetSetInBounds.lean [hunk 1]
```diff
@@ -4384,3 +4384,10 @@ theorem OperationPtr.getNumOperands_iff_replaceValue?
     OperationPtr.getNumOperands op ctx' h_op =
     OperationPtr.getNumOperands op ctx (by grind) := by
   grind [OpOperandPtr.inBounds_if_operand_size_eq]
+
+-- TODO(gzgz): is this the correct place to put this theorem?
```
Comment (tobiasgrosser) [inline Veir/Rewriter/GetSetInBounds.lean]: Please drop this comment from the diff and add a comment to the PR instead.

**Review by tobiasgrosser — COMMENTED** [review]
The PR currently does not compile.

File: Veir/Rewriter/GetSetInBounds.lean [hunk 2]
```diff
@@ -4384,3 +4415,9 @@ theorem OperationPtr.getNumOperands_iff_replaceValue?
     OperationPtr.getNumOperands op ctx' h_op =
     OperationPtr.getNumOperands op ctx (by grind) := by
   grind [OpOperandPtr.inBounds_if_operand_size_eq]
+
+@[grind →]
+theorem IRContext.create_fieldsInBounds {op: OperationPtr} (h : IRContext.create OpInfo = some (ctx, op)) :
```
Comment (GZGavinZhao) [inline Veir/Rewriter/GetSetInBounds.lean:4370]: @math-fehr suggested to put this theorem right after the definition of `IRContext.create` (in `Rewriter.Basic`), but the proof requires `Rewriter.createBlock_fieldsInBounds_mono` which is in the current file (`Rewriter.GetSetInBounds`).

Comment (math-fehr) [reply Veir/Rewriter/GetSetInBounds.lean:4370]: Oh my bad, then sorry let's move it back to where it was, I forgot this relied on this proof!

File: Veir/IR/Fields.lean [hunk 3]
```diff
@@ -77,6 +77,19 @@ structure IRContext.FieldsInBounds (ctx : IRContext OpInfo) : Prop where
 
 attribute [local grind =] Option.maybe_def
 
+section default 
+
+@[grind .]
+theorem IRContext.default_FieldsInBounds : IRContext.FieldsInBounds (default : IRContext OpInfo) := by
+  stop
+  -- Invalid simp theorem `instInhabitedIRContext.default`: Expected a definition with an exposed body
+  -- TODO(gzgz): is this due to `module` weirdness? I can't figure it out.
```
Comment (GZGavinZhao) [inline Veir/IR/Fields.lean]: @math-fehr @ineol Would like some help with this proof when you get a chance. The exact same proof works in `MlirParser` but not here...

Comment (math-fehr) [reply Veir/IR/Fields.lean]: I pushed a commit to fix it!
When you use modules in Lean, you can't unfold definitions that are not marked `@[expose]`.
Funnily enough, you cannot expose `instInhabitedIRContext.default` because you can only expose at definition time (which is done automatically so you cannot here).
So I added a theorem that exposes it.
So we use the manual `*_def` lemmas that rewrite things into their definitions.

**Review by tobiasgrosser — APPROVED** [review]
This LGTM. Let's see what @math-fehr says.

**Review by math-fehr — APPROVED** [review]
